US08182781B2
Cyclopropyl(1-hydroxy-1-methylethyl)(diisopropyl)silane
According to the synthesis of 1-hydroxy-1-methylethyl(diisopropyl)methylsilane (Example 7), cyclopropyl(1-hydroxy-1-methylethyl)(diisopropyl)silane was prepared from dichloro(diisopropyl)silane (5.00 g, 27.0 mmol), ethoxyvinyl lithium (prepared from ethyl vinyl ether (2.17 g, 30.1 mmol) and tert-butyl lithium (1.9 M in pentane, 14.2 ml, 27.0 mmol) in THF (40 ml)) and cyclopropyl lithium (prepared according to Example 1 from bromocyclopropane (3.59 g, 29.7 mmol) and lithium (412 mg, 59.4 mmol) in Et2O). The crude cyclopropyl(1-ethoxyvinyl)(diisopropyl)silane was hydrolysed with acetone/1 N HCl (2:1, 72 ml), and purified by silica-gel flash chromatography (silica gel 40-63 μm, hexane/EtOAc, 9:1) to afford 2.11 g (39%) acetyl(cyclopropyl)(diisopropyl)silane. Reaction of acetyl(cyclopropyl)(diisopropyl)silane (1.00 g, 5.04 mmol) with methyl lithium (1.6 M in Et2O, 25.2 ml, 40.3 mmol) afforded after purification by silica-gel chromatography (silica gel 15-40 μm, hexane/EtOAc, 9:1) 590 mg (55%) of the odoriferous title compound.

reactant | acetyl(cyclopropyl)(diisopropyl)silane | 5.04 mmol, 1.00 g | C(C)(=O)[Si](C(C)C)(C(C)C)C1CC1 | C11H22OSi
reactant | methyl lithium | 40.3 mmol, 1.6 M, 25.2 ml | C[Li]
product | Cyclopropyl(1-hydroxy-1-methylethyl)(diisopropyl)silane | C1(CC1)[Si](C(C)C)(C(C)C)C(C)(C)O | C12H26OSi
